US04833146
7-(5-Hydroxy-5-methylhexyl)-3-methylxanthine
83 g (0.5 mol) of 3-methylxanthine are dissolved in 500 ml of 1N sodium hydroxide solution (0.5 mol) under the influence of heat. The mixture is filtered, the water is distilled off under reduced pressure and the sodium salt which remains is dried under a high vacuum. After addition of 1.5 liters of dimethylformamide and 75.3 g (0.5 mol) of 1-chloro-5-hydroxy-5-methylhexane, the mixture is heated at 110° C. for 6 hours, while stirring, filtered hot and evaporated under reduced pressure, the residue obtained is taken up in 1 liter of hot 1N sodium hydroxide solution, the hot solution is filtered and, after cooling to room temperature, 6N hydrochloric acid is added dropwise, with stirring, until a pH of 9 is reached. The precipitate is filtered off with suction, washed neutral and dried in vacuo.

reactant | 3-methylxanthine | 0.5 mol, 83 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium hydroxide | 0.5 mol, 1N, 500 ml | [OH-].[Na+]
reactant | 1-chloro-5-hydroxy-5-methylhexane | 0.5 mol, 75.3 g | ClCCCCC(C)(C)O | C7H15ClO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dimethylformamide | 1.5 liters | CN(C=O)C | C3H7NO
product | 7-(5-Hydroxy-5-methylhexyl)-3-methylxanthine | OC(CCCCN1C=NC=2N(C(NC(C12)=O)=O)C)(C)C | C13H20N4O3
